US07375115B2
N-[1-[2-[1-(4-Hydroxy-3-hydroxymethylbutyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide
To a solution of N-[1-[2-[1-[4-(methoxymethoxy)-3-(methoxymethoxymethyl)butyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide (300 mg) in methanol (10 mL) was added conc. hydrochloric acid (0.17 mL) at room temperature. The solution was stirred at room temperature for 16 hours. conc. Hydrochloric acid (0.17 mL) was further added to the solution, and it was stirred at 50 ° C. for 6 hours. The solution was concentrated under reduced pressure, saturated aqueous sodium bicarbonate solution was added to the residue, and it was extracted with chloroform. The extract was dried over anhydrous sodium sulfate, and then, concentrated under reduced pressure. The residue was purified by chromatography [silica gel, chloroform-methanol-aqueous ammonia (90:10:0.1)]to give the title compound (260 mg).

reactant | N-[1-[2-[1-[4-(methoxymethoxy)-3-(methoxymethoxymethyl)butyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 300 mg | COCOCC(CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C)COCOC | C33H51N3O6
reactant | hydrochloric acid | 0.17 mL | Cl | ClH
reactant | Hydrochloric acid | 0.17 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | N-[1-[2-[1-(4-Hydroxy-3-hydroxymethylbutyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 260 mg | OCC(CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C)CO | C29H43N3O4
